US05591869
2-(2,4-Dichloro-5-fluorobenzyl)thiophene
3.8 g of aluminium chloride were suspended in 162.5 ml of chlorobenzene, and a solution of 58.9 g of 2,4-dichloro-5-fluorobenzoyl chloride in 33.8 ml of chlorobenzene was added dropwise to this at 0° C. over the course of 30 minutes. The mixture was stirred at 0° C. for 90 minutes and then, at 0° C., a solution of 21.8 g of thiophene in 33.8 ml of chlorobenzene was added dropwise over the course of 30 minutes. The mixture was stirred at 0° C. for a further 2 hours and finally heated to reflux for 15 minutes until evolution of hydrogen chloride ceased. The resulting solution was added dropwise to a suspension of 7.2 g of sodium borohydride in 50 ml of diglyme at 70° C. over the course of 30 minutes, and the reaction mixture was subsequently stirred at 70° C. for 90 minutes and then discharged into a mixture of 250 g of ice, 200 ml of water and 62.5 g of concentrated aqueous hydrochloric acid. After addition of 100 ml of chlorobenzene and stirring, the phases were separated. The organic phase was extracted by shaking with 100 ml of water and was subsequently concentrated. Yield: 78.5 g of crude substance with a content of 76.7% by weight (GC) of 2-(2,4-dichloro-5-fluorobenzyl)thiophene, corresponding to 92.3% of theory. Distillation resulted in a 97.2% pure (GC) product, boiling point 140° to 145° C./8 mbar, melting point 60° to 61° C.

reactant | aluminium chloride | 3.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dichloro-5-fluorobenzoyl chloride | 58.9 g | ClC1=C(C(=O)Cl)C=C(C(=C1)Cl)F | C7H2Cl3FO
reactant | thiophene | 21.8 g | S1C=CC=C1 | C4H4S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium borohydride | 7.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 62.5 g | Cl | ClH
solvent | chlorobenzene | 162.5 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 33.8 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 33.8 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 200 ml | O | H2O
product | 2-(2,4-Dichloro-5-fluorobenzyl)thiophene | ClC1=C(CC=2SC=CC2)C=C(C(=C1)Cl)F | C11H7Cl2FS
